US05736539
1-tert-Butoxycarbonyl-2(S)-n-butyl-4-(2,3-dimethylbenzoyl)piperazine
The title compound was prepared according to the procedure described for Example 1, Step A except using 1-tert-butoxycarbonyl-2(S)-n-butylpiperazine (1.26 g, 5.20 mmol), 2,3-dimethylbenzoic acid (0.820 g, 5.46 mmol), HOBT (0.70 g, 5.20 mmol), EDC.HCl (1.09 g, 5.72 mmol) and triethylamine to adjust the pH to 7. The crude product was chromatographed on silica gel with 20% ethyl acetate in hexane. The title compound was obtained as a thick oil (1.76 g). NMR (300 MHz, DMSO-d6) δ 7.15 (2H, m), 6.06 (1H,m), 4.42 (1H,m), 3.6-4.2 (2H, m), 2.7-3.24 (4H, m), 2.24 (3H, s), 2.03-2.20 (3H, 4s), 1.10-1.6 (15H, m), 0.72-1.00 (3H, m).

reactant | 1-tert-butoxycarbonyl-2(S)-n-butylpiperazine | 5.20 mmol, 1.26 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCCC | C13H26N2O2
reactant | 2,3-dimethylbenzoic acid | 5.46 mmol, 0.820 g | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | HOBT | 5.20 mmol, 0.70 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 5.72 mmol, 1.09 g | CCN=C=NCCCN(C)C.Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-tert-Butoxycarbonyl-2(S)-n-butyl-4-(2,3-dimethylbenzoyl)piperazine | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(C1=C(C(=CC=C1)C)C)=O)CCCC | C22H34N2O3
